US07326788B2
To a solution of 6-chloro-3-(3-hydroxymethyl-isoxazol-5-yl)-4-phenyl-1H-quinolin-2-one (822 mg, 2.33 mmol) in CH3CN (8 mL), Dess-Martin periodinane (1.05 g, 2.47 mmol) was added. The resulting mixture was stirred at RT for 3 hr and concentrated. Water (20 mL) was then added and the product was extracted with (5% MeOH: CH2Cl2 3×50 mL). The organic layer was dried (Na2SO4) and concentrated. The residue was chromatographed on silica (30-80% EtOAc:Hexane) to obtain partially pure 5-(6-chloro-2-oxo-4-phenyl-1,2-dihydro-quinolin-3-yl)-isoxazole-3-carboxaldehyde. Yield 66%: 1H-NMR (CDCl3; 400 MHz) δ 13.15 (s,1H), 10.09 (s, 1H), 7.57-7.47 (m, 8H), 6.97 (s,1H).

reactant | 6-chloro-3-(3-hydroxymethyl-isoxazol-5-yl)-4-phenyl-1H-quinolin-2-one | 2.33 mmol, 822 mg | ClC=1C=C2C(=C(C(NC2=CC1)=O)C1=CC(=NO1)CO)C1=CC=CC=C1 | C19H13ClN2O3
reactant | Dess-Martin periodinane | 2.47 mmol, 1.05 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH3CN | 8 mL | CC#N | C2H3N
product | 5-(6-chloro-2-oxo-4-phenyl-1,2-dihydro-quinolin-3-yl)-isoxazole-3-carboxaldehyde | Yield 66% | ClC=1C=C2C(=C(C(NC2=CC1)=O)C1=CC(=NO1)C=O)C1=CC=CC=C1 | C19H11ClN2O3
